US09382197B2
A mixture of 4-((R)-2-methyl-1-thioureidopropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide (0.0252 g, 0.0717 mmol) and 5-(bromoacetyl)-3-phenylisoxazole (0.0191 g, 0.0717 mmol) in 1,4-dioxane (0.50 mL) was heated at 40° C. for 1 h. The solution was diluted with DCM (0.50 mL) and hydrochloric acid (0.20 mL, 0.80 mmol, 4.00 M of in 1,4-dioxane) was added. The reaction was stirred at rt for 3 h. The mixture was evaporated to dryness, the residue dissolved in DMSO and the solution purified on prep-HPLC to give (R)—N-hydroxy-4-(2-methyl-1-(4-(3-phenylisoxazol-5-yl)thiazol-2-ylamino)propyl)benzamide as a white solid (0.0173 g, 56%). LC-MS: (FA) ES+ 435. 1H NMR (dmso-d6, 400 MHz) δ11.13 (s, 1H), 9.00 (s, 1H), 8.52 (d, J=8.6 Hz, 1H), 7.90 (m, 2H), 7.70 (d, J=8.3 Hz, 2H), 7.51 (dd, J=5.1, 1.9 Hz, 3H), 7.44 (d, J=8.3 Hz, 2H), 7.26 (s, 1H), 7.09 (s, 1H), 4.48 (t, J=8.1 Hz, 1H), 2.10 (m, 1H), 1.00 (d, J=6.6 Hz, 3H), 0.78 (d, J=6.7 Hz, 3H).

reactant | 4-((R)-2-methyl-1-thioureidopropyl)-N-(tetrahydro-2H-pyran-2-yloxy)benzamide | 0.0717 mmol, 0.0252 g | CC([C@@H](NC(=S)N)C1=CC=C(C(=O)NOC2OCCCC2)C=C1)C | C17H25N3O3S
reactant | 5-(bromoacetyl)-3-phenylisoxazole | 0.0717 mmol, 0.0191 g | BrCC(=O)C1=CC(=NO1)C1=CC=CC=C1 | C11H8BrNO2
reactant | hydrochloric acid | 0.80 mmol, 4.00 M, 0.20 mL | Cl | ClH
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 0.50 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-hydroxy-4-(2-methyl-1-(4-(3-phenylisoxazol-5-yl)thiazol-2-ylamino)propyl)benzamide | 0.0173 g, 56% | ONC(C1=CC=C(C=C1)[C@@H](C(C)C)NC=1SC=C(N1)C1=CC(=NO1)C1=CC=CC=C1)=O | C23H22N4O3S
